US07687490B2
d) 4-Hydroxymethyl-2-((Z)-2-tritylthioethen-1-yl)thiazole
A solution of 3.48 g of 4-methoxycarbonyl-2-((Z)-2-tritylthioethen-1-yl)thiazole in 70 ml of dichloromethane was cooled in ice, and 18.7 ml of a 1.0 M diisobutylaluminum hydride/toluene solution was added dropwise to the cooled solution under an argon atmosphere. The mixture was stirred at the same temperature for one hr. Water was then added to the reaction solution, and the mixture was adjusted to pH 2.5 by the addition of 1 N aqueous hydrochloric acid. The insolubles were removed by filtration through Celite, and the filtrate was extracted twice with ethyl acetate. The organic layers were combined, were washed with brine, were dried over anhydrous magnesium sulfate, were filtered, and were concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1) to give 2.88 g of the title compound.

reactant | 4-methoxycarbonyl-2-((Z)-2-tritylthioethen-1-yl)thiazole | 3.48 g | COC(=O)C=1N=C(SC1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H21NO2S2
reactant | diisobutylaluminum hydride toluene | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | Water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 4-Hydroxymethyl-2-((Z)-2-tritylthioethen-1-yl)thiazole | 2.88 g | OCC=1N=C(SC1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS2
